US05641788
According to the same manner as that described in Example 1, 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline was reacted with N-tert-butyl-N-ethylamine to give 4-(3,4-dimethoxyphenyl)-2-(N-tert-butyl-N-ethylaminomethyl)-6,7-dimethoxy-3-valerylquinoline. This compound was recrystallized from ethyl acetate-hexane to give colorless prisms. mp. 137°-139° C.

reactant | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CCCC)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
reactant | N-tert-butyl-N-ethylamine | C(C)(C)(C)NCC | C6H15N
product | 4-(3,4-dimethoxyphenyl)-2-(N-tert-butyl-N-ethylaminomethyl)-6,7-dimethoxy-3-valerylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN(CC)C(C)(C)C)C(CCCC)=O | C31H42N2O5
